US06303593B1
1-t-Butoxycarbonyl-4-trifluoromethylsulfonyloxy-1,2,3,6-tetrahydropyridine
To a solution of 14 mL of LDA (2M in THF) at −78° C. in a nitrogen atmosphere was slowly added 5 g (25 mmol) of 4-t-butoxycarbonyl piperidone. The reaction mixture was warmed to 0° C. and stirred for 3 h. The reaction mixture was then cooled to −78° C. and to it was slowly added a solution of 9.82 g (27.5 mmol) of (CF3SO2)2NPh (Aldrich) in 50 mL of THF. The reaction mixture was slowly warmed to 0° C. and stirred for 12 h. The reaction mixture was concentrated, redissolved in CH2Cl2 and filtered though a plug of alumina and the filtrate was concentrated to give 8.1 g of the title compound.

reactant | LDA | 2M, 14 mL | [Li+].CC(C)[N-]C(C)C
reactant | 4-t-butoxycarbonyl piperidone | 25 mmol, 5 g | C(C)(C)(C)OC(=O)C1CC(NCC1)=O | C10H17NO3
reactant | (CF3SO2)2NPh | 27.5 mmol, 9.82 g | N(S(=O)(=O)C(F)(F)F)(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1 | C8H5F6NO4S2
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-t-Butoxycarbonyl-4-trifluoromethylsulfonyloxy-1,2,3,6-tetrahydropyridine | 8.1 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)OS(=O)(=O)C(F)(F)F | C11H16F3NO5S
